US08445510B2
cis-3-[4-(3-{(1S)-1-[2-Chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)-5-methyl-1H-pyrazol-1-yl]cyclobutanol
A mixture of 3-[4-(3-{(1S)-1-[2-chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)-5-methyl-1H-pyrazol-1-yl]cyclobutanone (10.0 mg, 0.0204 mmol), sodium borohydride (3.87 mg, 0.102 mmol) and EtOH (1 mL, 20 mmol) was stirred at rt for 30 min. Sat. NH4Cl was added, and the organic solvent was removed in vacuo. The material was extracted with DCM and water. The organic layer was concentrated in vacuo, redissolved in MeOH (0.7 mL) and purified via HPLC. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=1.84 (d, J=7.1 Hz, 3H), 2.17 (s, 3H), 2.48-2.58 (m, 2H), 2.78-2.87 (m, 2H), 4.07-4.17 (m, 1H), 4.34-4.45 (m, 1H), 5.10 (q, J=7.2 Hz, 1H), 6.42 (br. s., 1H), 7.07-7.15 (m, 1H), 7.15-7.21 (m, 1H), 7.36 (s, 1H), 7.39 (d, J=1.0 Hz, 1H), 7.50 (s, 1H), 8.14 (br. s., 1H). MS (ES+): m/z=491.15/493.15 (100/50) [MH+]. HPLC: tR=1.41 min (polar—3 min, UPLC-ACQUITY).

reactant | 3-[4-(3-{(1S)-1-[2-chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)-5-methyl-1H-pyrazol-1-yl]cyclobutanone | 0.0204 mmol, 10.0 mg | ClC1=C(C(=CC=C1F)OC(F)F)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)C2CC(C2)=O | C24H20ClF3N4O2
reactant | sodium borohydride | 0.102 mmol, 3.87 mg | [BH4-].[Na+]
reactant | EtOH | 20 mmol, 1 mL | CCO | C2H6O
reactant | NH4Cl | [NH4+].[Cl-]
product | cis-3-[4-(3-{(1S)-1-[2-Chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)-5-methyl-1H-pyrazol-1-yl]cyclobutanol | ClC1=C(C(=CC=C1F)OC(F)F)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)[C@H]2C[C@H](C2)O | C24H22ClF3N4O2
